US05908944
5β-Methylandrostane-3,17-dione
2.86 g (10 mmol) of androst-4-ene-3,17-dione and 143.3 mg (1 mmol) of copper(I) bromide are dissolved in 20 ml of dry dioxane. 9.4 ml (11 mmol) of a 10% solution of trimethyl aluminum in toluene is added to the reaction for 10 minutes at room temperature under nitrogen atmosphere so that the temperature does not rise above 30° C. Then it is stirred for 2 hours more at 30° C. For hydrolysis, 0.54 ml of water dissolved in 5 ml of dioxane is added to the reaction and stirred for 10 minutes more. The solid is suctioned off on diatomaceous earth and washed again with 20 ml of dioxane. The filtrate is concentrated by evaporation and the crude product (3.0 g) is chromatographed on silica gel with hexane/ethyl acetate as eluent and an increasing part of ethyl acetate. After concentration by evaporation of the fractions, 2.3 g of 5β-methyl-androsta-3,17-dione (76% of theory) of a melting point of 135° C. is obtained.

reactant | androst-4-ene-3,17-dione | 10 mmol, 2.86 g | C[C@@]12C(CC[C@H]1[C@@H]1CCC3=CC(CC[C@]3(C)[C@H]1CC2)=O)=O | C19H26O2
reactant | trimethyl aluminum | C[Al](C)C
reactant | water | 0.54 ml | O | H2O
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
catalyst | copper(I) bromide | 1 mmol, 143.3 mg | [Cu]Br
product | 5β-Methylandrostane-3,17-dione | C[C@@]12CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CCC(C1)=O)C)=O | C20H30O2
